US05536718
6-[(2-Methylbenzeneacetyl)amino]pyridine-3-carboxylic acid
To a cooled (0° C.) mixture of 5.0 g methyl 6-aminopyridine-3-carboxylate, 12.6 ml of N,N-diisopropylethylamine in 40 ml of dichloromethane is added a solution of 12.2 g of 2-methylbenzeneacetyl chloride in 10 ml of dichloromethane. The mixture is stirred under argon at room temperature overnight. The mixture is diluted with 200 ml of dichloromethane and 50 ml of water and the organic layer separated. The organic layer is washed with 50 ml each of 1M NaHCO3, brine and dried (Na2SO4). The solution is filtered through a thin pad of hydrous magnesium silicate and the filtrate concentrated to dryness. The residue (9.0 g) is chromatographed on a silica gel column with hexane-ethyl acetate (3:1) as eluent to give 8.6 g of solid. This solid, mainly methyl 6-[[bis (2-methylbenzeneacetyl)]-amino]pyridine-3-carboxylate, is dissolved in 60 ml of tetrahydrofuran-methanol (1:1) and 23 ml of 5N NaOH added to the solution. The mixture is stirred at room temperature overnight and the mixture concentrated under vacuum. Water (25 ml) is added and the mixture is stirred and acidified with cold 1N HCl. The mixture is chilled and the solid filtered and washed with water to give 5.9 g of off-white solid.

reactant | methyl 6-[[bis (2-methylbenzeneacetyl)]-amino]pyridine-3-carboxylate | CC1=C(C=CC=C1)CC(=O)N(C1=CC=C(C=N1)C(=O)OC)C(CC1=C(C=CC=C1)C)=O | C25H24N2O4
reactant | NaOH | 5N, 23 ml | [OH-].[Na+]
solvent | tetrahydrofuran-methanol | 60 ml | O1C(CCC1)CO | C5H10O2
product | 6-[(2-Methylbenzeneacetyl)amino]pyridine-3-carboxylic acid | 5.9 g | CC1=C(C=CC=C1)CC(=O)NC1=CC=C(C=N1)C(=O)O | C15H14N2O3
